US05563142
1-[Benzyloxycarbonyl]-4-[3-(2,2,2-trifluoroacetamido)-2-pyridinyl]piperazine
1-[Benzyloxycarbonyl]-4-[3-amino-2-pyridinyl]piperazine (PREPARATION 100), is dissolved in 50 ml of methylene chloride and triethylamine is added. The reaction is cooled to 0° and trifluoroacetic anhydride is added dropwise. After 30 min, the reaction is poured into saturated aqueous sodium bicarbonate solution and extracted with chloroform, washed with saline, dried over anhydrous sodium sulfate and concentrated in vacuo, NMR (300 MHz, CDCl3) 8.92, 8.54, 8.22, 7.39-7.32, 7.16, 5.17, 3.70 and 3.03 δ.

reactant | 1-[Benzyloxycarbonyl]-4-[3-amino-2-pyridinyl]piperazine | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC=CC=C1N | C17H20N4O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-[Benzyloxycarbonyl]-4-[3-(2,2,2-trifluoroacetamido)-2-pyridinyl]piperazine | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC=CC=C1NC(C(F)(F)F)=O | C19H19F3N4O3
